US07135492B2
Ethyl chlorooxoacetate (11.1 mL; 0.1 mol) was added dropwise to the solution of ethyl 2-({[(5-chloro-2-methylanilino) carbothioyl]amino}oxy)acetate (15.1 g; 0.05 mol) in methylene chloride (200 mL). The mixture was heated at reflux for 1 hour then evaporated to dryness. The residue was stirred in ether for 15 minutes and the solids were filtered. The solids were washed with fresh ether and dried to give 13.1 g of ethyl 2-{[3-(5-chloro-2-methylphenyl)-4,5-dioxo-2-thioxo-1-imidazolidinyl]oxy}acetate as a solid, m.p. 157–159° C. Mass spectrum; FAB (M+H)+ m/z 357. 1H-NMR (DMSO-d6; 300 MHz): δ 7.50 (d, 1H), 7.42 (m, 2H), 4.90 (q, 2H), 4.20 (q, 2H), 2.17 (s, 3H), and 1.24 ppm (t, 3H).

reactant | Ethyl chlorooxoacetate | 0.1 mol, 11.1 mL | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | ethyl 2-({[(5-chloro-2-methylanilino) carbothioyl]amino}oxy)acetate | 0.05 mol, 15.1 g | ClC=1C=CC(=C(NC(=S)NOCC(=O)OCC)C1)C | C12H15ClN2O3S
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-{[3-(5-chloro-2-methylphenyl)-4,5-dioxo-2-thioxo-1-imidazolidinyl]oxy}acetate | 13.1 g | ClC=1C=CC(=C(C1)N1C(N(C(C1=O)=O)OCC(=O)OCC)=S)C | C14H13ClN2O5S
